US07230011B2
Benzenesulfonic Acid 1,7-dimethyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl Ester
By a method similar to Example 56, using 1,7-dimethyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indol (1.98 mmol, 0.511 g) in THF (5.0 mL), sodium hydride (2.37 mmol, 0.095 g, 60% dispersion in mineral oil), and benzenesulfonyl chloride (2.18 mmol, 0.384 g), afforded 0.501 g (64%): ms (ion spray): m/z=399 (M+1); 1H NMR (DMSOd6): 7.85-7.77 (m, 3H), 7.67-7.62 (m, 2H), 7.01 (s, 1H), 6.64 (d, J=2.56 Hz, 1H), 6.55 (d, J=1.83 Hz, 1H), 3.94 (s, 3H), 2.82-2.72 (bd, 2H), 2.60 (s, 3H), 2.39 (tt, J=3.72 Hz, 1H), 2.18 (s, 3H), 1.91 (m, 2H), 1.67-1.54 (m, 2H), 1.47 (m, 2H); Calculated for C22H26N2O3S: C, 66.31; H, 6.58; N, 7.03. Found: C, 66.18; H, 6.58; N, 7.08.

reactant | 1,7-dimethyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indol | 1.98 mmol, 0.511 g | CN1C=C(C2=CC(=CC(=C12)C)O)C1CCN(CC1)C | C16H22N2O
reactant | sodium hydride | 2.37 mmol, 0.095 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 2.18 mmol, 0.384 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Benzenesulfonic Acid 1,7-dimethyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl Ester | CN1C=C(C2=CC(=CC(=C12)C)OS(=O)(=O)C1=CC=CC=C1)C1CCN(CC1)C | C22H26N2O3S
